US06136825
Triethylamine (0.62 ml) was added to a solution of (S)-4-(aminomethyl)-1-(7-chloro-1,4-benzodioxan-2-ylmethyl)piperidine (0.44 g) and 4-fluorobenzenesulphonyl chloride (0.65 g) in dichloromethane (22 ml) under nitrogen and stirred for 3 hours. The reaction was left to stand for 14 hours then diluted with dichloromethane (100 ml), washed with water (100 ml) and brine (100 ml), dried over anhydrous magnesium sulphate and concentrated under reduced pressure. Purification by flash chromatography on silica gel eluting with a 19:1 mixture of dichloromethane and methanol gave a yellow oil which on trituration with diethyl ether yielded (S)-(-)-N-{[1-(7-chloro-1,4-benzodioxan-2-ylmethyl)-4-piperidyl]methyl}-4-fluorobenzene-sulphonamide as a yellow solid (0.4 g); m.p. 127-129° C., [α]D22 -41.3° (c=0.72, MeOH).

reactant | Triethylamine | 0.62 ml | C(C)N(CC)CC | C6H15N
reactant | (S)-4-(aminomethyl)-1-(7-chloro-1,4-benzodioxan-2-ylmethyl)piperidine | 0.44 g | NCC1CCN(CC1)C[C@H]1COC2=C(O1)C=C(C=C2)Cl | C15H21ClN2O2
reactant | 4-fluorobenzenesulphonyl chloride | 0.65 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | dichloromethane | 22 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (S)-(-)-N-{[1-(7-chloro-1,4-benzodioxan-2-ylmethyl)-4-piperidyl]methyl}-4-fluorobenzene-sulphonamide | 0.4 g | ClC=1C=CC2=C(O[C@H](CO2)CN2CCC(CC2)CNS(=O)(=O)C2=CC=C(C=C2)F)C1 | C21H24ClFN2O4S
